US05108486
To a stirred solution of 3.5 g (0.011 mole) of 4-(4-amino-2-chlorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione in a 100 ml of acetonitrile were added in succession 2.9 g (0.034 mole) of sodium bicarbonate and 3.7 g (0.024 mole) of iodoethane. The reaction mixture was heated at reflux for approximately 18 hours. An additional 1.8 g (0.011 mole) of iodoethane was added, and the reaction was stirred at room temperature for two days. The mixture was cooled, and the solvent was evaporated under reduced pressure, leaving a residue. Water was added to the residue, and the mixture was extracted with methylene chloride. The organic extract was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was purified by column chromatography to produce two fractions. The first fraction yielded 0.5 g of 4-(2-chloro-4-diethylaminophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 108°-110° C., Compound 98 of Table 1. The second fraction yielded 1.5 g of 4-(2-chloro-4-ethylaminophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 87°-90° C., Compound 96 of Table 1.

reactant | 4-(4-amino-2-chlorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 0.011 mole, 3.5 g | NC1=CC(=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F)Cl | C10H8ClF3N4S
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | sodium bicarbonate | 0.034 mole, 2.9 g | C([O-])(O)=O.[Na+]
reactant | iodoethane | 0.024 mole, 3.7 g | ICC | C2H5I
reactant | iodoethane | 0.011 mole, 1.8 g | ICC | C2H5I
solvent | Water | O | H2O
product | 4-(2-chloro-4-diethylaminophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 0.5 g | ClC1=C(C=CC(=C1)N(CC)CC)N1C(=NN(C1=S)C)C(F)(F)F | C14H16ClF3N4S
